US04886821
Lawesson's reagent (29.8 g, 74 mmol) and N-(2,4-difluorophenyl)-2-pyridinecarboxamide (14.37 g, 61 mmol) were combined in toluene (185 mL) and refluxed for 3 hours. After evaporation of the solvent, the residue was dissolved in dichloromethane, preadsorbed on silica gel, and flash chromatographed (eluted with 2% ethyl acetate in petroleum ether) to provide N-(2,4-difluorophenyl)-2-pyridinecarbothioamide as a yellow solid (14.45 g, 94%) m.p. 124°-129° C.

reactant | Lawesson's reagent | 74 mmol, 29.8 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-(2,4-difluorophenyl)-2-pyridinecarboxamide | 61 mmol, 14.37 g | FC1=C(C=CC(=C1)F)NC(=O)C1=NC=CC=C1 | C12H8F2N2O
solvent | toluene | 185 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-difluorophenyl)-2-pyridinecarbothioamide | 14.45 g, 94% | FC1=C(C=CC(=C1)F)NC(=S)C1=NC=CC=C1 | C12H8F2N2S
